US07326732B2
(ii) 3-[3-(2-Phenyl-thiazol-4-ylmethoxy)-phenyl]-acrylic acid methyl ester
3-(3-Hydroxy-phenyl)-acrylic acid methyl ester (85 mg, 0.48 mmol) was dissolved in dry DMF (1.5 ml) and NaH (14 mg, 0.60 mmol) was added as a suspension in heptane (0.5 ml). The mixture was stirred at room temperature for 10 min. 4-Chloromethyl-2-phenyl-thiazole (100 mg, 0.48 mmol) was added portion-wise and the solution left stirring for 4 h. The reaction mixture was quenched with H2O (2 ml) and extracted with EtOAc (3×1 ml). The combined organic layers were washed with H2O (3×1 ml), dried (MgSO4), filtered and the solvent removed in vacuo to give a mixture of acid and ester, which was used without further purification.

reactant | 3-(3-Hydroxy-phenyl)-acrylic acid methyl ester | 0.48 mmol, 85 mg | COC(C=CC1=CC(=CC=C1)O)=O | C10H10O3
reactant | NaH | 0.60 mmol, 14 mg | [H-].[Na+]
reactant | 4-Chloromethyl-2-phenyl-thiazole | 0.48 mmol, 100 mg | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | heptane | 0.5 ml | CCCCCCC | C7H16
product | 3-[3-(2-Phenyl-thiazol-4-ylmethoxy)-phenyl]-acrylic acid methyl ester | COC(C=CC1=CC(=CC=C1)OCC=1N=C(SC1)C1=CC=CC=C1)=O | C20H17NO3S
